US07985755B2
Step 2: 4-(2-Fluorobenzyl)cyclohexanecarboxylic Acid Methyl Ester (Method G)
In an 18 mL vial with stir bar and 4-(2-fluorobenzoyl)cyclohexanecarboxylic acid methyl ester (333 mg; 1.2 mmol), trifluoroacetic acid (4 mL) was chilled to 0° C. and triethylsilane (700 mg; 6.0 mmol) was added over 1 minute. Mixture was allowed to warm to room temperature. After 48 hours, mixture was concentrated in vacuo and reduced by half volume. Mixture was poured into cold KOH solution and pH adjust further to pH 6. Aqueous mixture was extracted 3×5 mL ethyl acetate. Combined ethyl acetate was washed with brine and dried over MgSO4. Crude oil was purified via (20:1) flash chromatography 0-10% ethyl acetate in hexanes to give 250 mg of title compound. (83% yield).

reactant | 4-(2-fluorobenzoyl)cyclohexanecarboxylic acid methyl ester | 1.2 mmol, 333 mg | COC(=O)C1CCC(CC1)C(C1=C(C=CC=C1)F)=O | C15H17FO3
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 6.0 mmol, 700 mg | C(C)[SiH](CC)CC | C6H16Si
product | 4-(2-Fluorobenzyl)cyclohexanecarboxylic Acid Methyl Ester | 250 mg, 83% yield | COC(=O)C1CCC(CC1)CC1=C(C=CC=C1)F | C15H19FO2
